US06046214
Arecoline (39.5 g, 0.25 mol) was dissolved in dry toluene (20 ml). 1-Chloroethyl chloroformate (30.5 ml) was added slowly at 0-5° C. The mixture was heated at 80° C. for 2 h, cooled to room temperature, filtered and evaporated to dryness in vacuo. The residue was dissolved in methylene chloride (400 ml) and extracted with 10% aqueous sodium carbonate. The organic layer was dried over magnesium sulfate, filtered and evaporated to dryness to give methyl 1,2,5,6-tetrahydropyridine-3-carboxylate (Yield: 30.5 g, 85%). Methyl 1,2,5,6-tetrahydropyridine-3-carboxylate (1.1 g, 7.8 mmol) was dissolved in methylene chloride (20 ml) and cooled to -15° C. Triethyl amine (2.2 ml, 15,8 mmol) and a solution of benzyl chloroformate (1.2 ml, 8,4 mmol) in methylene chloride (10 ml) were added. Stirring at room temperature for 1.5 h followed by evaporation to dryness. The residue was dissolved in methylene chloride and extracted with water two times. The organic layer separated, dried and evaporated to dryness in vacuo to give methyl 1-benzyloxycarbonyl-1,2,5,6-tetrahydropyridine-3-carboxylate as an oil (Yield: 2.0 g, 92%).

reactant | Arecoline | 0.25 mol, 39.5 g | CN1CCC=C(C1)C(=O)OC | C8H13NO2
reactant | 1-Chloroethyl chloroformate | 30.5 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 1,2,5,6-tetrahydropyridine-3-carboxylate | Yield: 30.5 g, 85% | N1CC(=CCC1)C(=O)OC | C7H11NO2
